US07750002B2
Amine preparation: to a stirring solution of BOC-isonipecotic acid (400 mg) in DMF (4 mL) was added 1,1′-carbonyldiimidazole (560 mg). The reaction mixture was stirred overnight and then dimethylamine hydrochloride (280 mg) and triethylamine (0.48 mL) were added. After 5 h the reaction mixture was diluted with ethyl acetate, washed with water, dried (MgSO4) and the solvent was removed in vacuo to yield 4-dimethylcarbamoyl-piperidine-1-carboxylic acid tert-butyl ester. Removal of the BOC group with HCl yielded the desired compound, which was isolated as the hydrochloride salt.

reactant | BOC-isonipecotic acid | 400 mg | C(=O)(OC(C)(C)C)N1CCC(C(=O)O)CC1 | C11H19NO4
reactant | 1,1′-carbonyldiimidazole | 560 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine hydrochloride | 280 mg | Cl.CNC
reactant | triethylamine | 0.48 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-dimethylcarbamoyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(C)C)=O | C13H24N2O3
